US05882628
d. 1-(2,3-Dihydroxypropylaminocarbonyl)-3-nitro-5-(1,2-dihydroxyethyl)benzene
3-Nitro-5-(1,2-dihydroxyethyl)benzoic acid methyl ester (0.40 g, 1.69 mmol) and 2,3-dihydroxypropylamine (0.17 g, 1.86 mmol) were dissolved in methanol (2 ml) and the solution was stirred at 75° C. for 1 h. The pressure was then reduced to 200 mm Hg and stirring was continued at 95° C. for 2 h. The crude reaction mixture was purified by preparative HPLC. Yield: 0.40 g (78%).

reactant | 3-Nitro-5-(1,2-dihydroxyethyl)benzoic acid methyl ester | 1.69 mmol, 0.40 g | COC(C1=CC(=CC(=C1)C(CO)O)[N+](=O)[O-])=O | C10H11NO6
reactant | 2,3-dihydroxypropylamine | 1.86 mmol, 0.17 g | OC(CN)CO | C3H9NO2
solvent | methanol | 2 ml | CO | CH4O
product | 1-(2,3-Dihydroxypropylaminocarbonyl)-3-nitro-5-(1,2-dihydroxyethyl)benzene | OC(CNC(=O)C1=CC(=CC(=C1)C(CO)O)[N+](=O)[O-])CO | C12H16N2O7
